US06245761B1
Preparation of N,N-dimethyl-4-(2-fluoro-5-bromobenzyloxy)butylamine
Diethylamine (17.6 ml, 35.3 mmol) was added to a solution of 4-(2-fluoro-5-bromobenzyloxy)butyl bromide (1.2 g, 3.53 mmol) in tetrahydrofuran (18 ml). The resulting mixture was stirred at ambient temperature for about 18 hours. The reaction mixture was diluted with methylene chloride and washed with saturated sodium bicarbonate. The aqueous fraction was back extracted with methylene chloride. The organic fractions were combined and dried over sodium sulfate. The solvents were removed in vacuo. The desired title intermediate was further purified by high performance liquid chromatography.

reactant | Diethylamine | 35.3 mmol, 17.6 ml | C(C)NCC | C4H11N
reactant | 4-(2-fluoro-5-bromobenzyloxy)butyl bromide | 3.53 mmol, 1.2 g | FC1=C(COCCCCBr)C=C(C=C1)Br | C11H13Br2FO
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-4-(2-fluoro-5-bromobenzyloxy)butylamine | CN(C)CCCCOCC1=C(C=CC(=C1)Br)F | C13H19BrFNO
